US07173033B2
To a mixture of potassium hydroxide (98 mg) and DMSO (5 ml), 6-azepan-1-yl-3-(1H-indol-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (501 mg) was added, and the mixture was stirred at room temperature for 30 minutes, and then combined with methyl iodide (0.15 ml) and then stirred for further 2 hours at room temperature. The reaction mixture was combined with water, and the resultant solids were collected by filtration, washed with a solvent a mixture of water and methanol, and then purified by silica gel column chromatography (eluent: chloroform: methanol=99:1). The resultant crude crystals were recrystallized from ethanol to obtain 6-azepan-1-yl-3-(1-methylindol-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (40 mg) as colorless crystals.

reactant | potassium hydroxide | 98 mg | [OH-].[K+]
reactant | DMSO | 5 ml | CS(=O)C | C2H6OS
reactant | 6-azepan-1-yl-3-(1H-indol-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 501 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)C=2NC1=CC=CC=C1C2 | C19H20N6
reactant | methyl iodide | 0.15 ml | CI | CH3I
solvent | water | O | H2O
product | 6-azepan-1-yl-3-(1-methylindol-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 40 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)C=2N(C1=CC=CC=C1C2)C | C20H22N6
